US05719319
462.5 g (1.67 moles) of a technical 40% by weight aqueous sodium sarcosinate solution and 200 g of water were take. A pH value of 9.81 (at 20° C.) was adjusted with concentrated 98% by weight formic acid. The reaction mixture was heated to 50° C. 138.2 g (1.65 moles) of SKW cyanamide L 500 (technical aqueous cyanamide solution with a content of 50.2% by weight) were added uniformly with vigorous stirring at an internal temperature of 50° to 52° C. over the course of 3 hours. The reaction mixture was further stirred for 1 hour at an internal temperature of 50° C. Subsequently, the reaction product was filtered off with suction and, without washing, suspended in 330 g of water. The suspension was stirred for 2 hours at 20° C. It was then filtered off with suction and the residue washed twice with 100 ml of water. After drying in a vacuum at 30° C. and 20 mbar pressure, there were obtained 165.2 g (67.1% of theory) creatine monohydrate.

reactant | sodium sarcosinate | N(C)CC(=O)[O-].[Na+]
reactant | cyanamide | 1.65 moles, 138.2 g | N#CN | CH2N2
solvent | water | 200 g | O | H2O
product | creatine monohydrate | 165.2 g, 67.1% | O.O=C(O)CN(C)C(N)=N | InChI=1S/C4H9N3O2.H2O/c1-7(4(5)6)2-3(8)9;/h2H2,1H3,(H3,5,6)(H,8,9);1H2
